US06835730B2
4-(8-Aminoquinolin-3-yl)-1,4-diazabicyclo[3.2.2]nonane.
0.8 g (2.7 mmol) of 4-(8-nitroquinolin-3-yl)-1,4-diazabicyclo[3.2.2]nonane, in suspension in a mixture of 8 ml of water and 4 ml of acetic acid, is introduced into a 25 ml three-necked round-bottomed flask and the suspension is heated at 40° C.; 0.43 g (7.7 mmol) of iron are then added, in two portions, and the mixture is heated at 50° C. for 1 h.

reactant | 4-(8-nitroquinolin-3-yl)-1,4-diazabicyclo[3.2.2]nonane | 2.7 mmol, 0.8 g | [N+](=O)([O-])C=1C=CC=C2C=C(C=NC12)N1CCN2CCC1CC2 | C16H18N4O2
solvent | water | 8 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 7.7 mmol, 0.43 g | [Fe] | Fe
product | 4-(8-Aminoquinolin-3-yl)-1,4-diazabicyclo[3.2.2]nonane | NC=1C=CC=C2C=C(C=NC12)N1CCN2CCC1CC2 | C16H20N4
